US04510307
In 100 ml of chloroform was dissolved 4.4 g of 1,4-diaminobutene, and to the solution was added dropwise 50 ml of a chloroform solution containing 3.1 g of 4-piperidino-6-quinazolinesulfonyl chloride under cooling with ice. After the dropwise addition of the chloroform solution, the mixed solution was stirred at a temperature of 20° C. to 25° C. for two hours, and the reaction solution was extracted with a 10% aqueous hydrochloric acid solution. The chloroform layer was washed with water and dried with anhydrous potassium carbonate. Then chloroform was distilled from the chloroform layer, and the residue was separated by Prep LC/System 500 (Waters Associates, U.S.A.) [column: Prepack 500/C18 ; solvent: H2O/CH3CN=85/15 (volume ratio); flow rate: 100 ml/minute] to give 2.8 g of N-(4-aminobutyl)-4-piperidino-6-quinazolinesulfonamide [i.e. Compound(31)] as an oily substance in a yield of 77%.

reactant | 1,4-diaminobutene | 4.4 g | NC=CCCN | C4H10N2
reactant | 4-piperidino-6-quinazolinesulfonyl chloride | 3.1 g | N1(CCCCC1)C1=NC=NC2=CC=C(C=C12)S(=O)(=O)Cl | C13H14ClN3O2S
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-aminobutyl)-4-piperidino-6-quinazolinesulfonamide | 2.8 g, yield of 77% | NCCCCNS(=O)(=O)C=1C=C2C(=NC=NC2=CC1)N1CCCCC1 | C17H25N5O2S
